US04022833
Condensation of 1-tridecene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxytridecylamine] (I: R= CH3 (CH2)10, R' = H, X= (CH2)6, Z= H).

reactant | 1-tridecene oxide | C1C(CCCCCCCCCCC)O1 | C13H26O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxytridecylamine] | C(CCCCCNCC(CCCCCCCCCCC)O)NCC(CCCCCCCCCCC)O | C32H68N2O2
